* source PROIECTCEF2
Q_Q10         VS+ N09955 N10137 BC817-25 
Q_Q18         N10501 N10501 0 BC817-25 
Q_Q11         VS+ N10137 VOUT BC817-25 
Q_Q16         N10355 N10485 N10617 BC817-25 
Q_Q8         VS+ N10083 N10265 BC817-25 
Q_Q19         N10343 N10343 N10501 BC817-25 
Q_Q7         N09955 N09931 N09873 BC807-25 
Q_Q1         N10083 N10129 N15102 BC817-25 
Q_Q12         N10137 N10327 N10375 BC817-25 
Q_Q3         N10129 V- N09951 BC807-25 
Q_Q6         N09931 N09931 N09865 BC807-25 
Q_Q4         N10083 V+ N09951 BC807-25 
Q_Q5         N09951 N09931 N09869 BC807-25 
Q_Q9         N09955 N10265 0 BC817-25 
Q_Q15         N09931 N10485 N10621 BC817-25 
Q_Q17         VS+ N10355 N10485 BC817-25 
Q_Q2         N10129 N10129 N10397 BC817-25 
Q_Q14         N10375 N10485 N10625 BC817-25 
R_R1         0 N10397  470m TC=0,0 
R_R2         0 N15102  470m TC=0,0 
R_R3         N09865 VS+  330 TC=0,0 
R_R4         N09869 N10950  100 TC=0,0 
R_R5         N09873 N10954  100 TC=0,0 
R_R6         N10327 N10137  1.5k TC=0,0 
R_R7         N10375 N10327  680 TC=0,0 
R_R8         0 N10625  150 TC=0,0 
R_R9         0 N10621  330 TC=0,0 
R_R10         0 N10617  330 TC=0,0 
R_R11         N10355 N10001  4.7k TC=0,0 
R_R12         0 N10625  150 TC=0,0 
R_R13         N10954 VS+  82 TC=0,0 
R_R14         N10950 VS+  82 TC=0,0 
R_R15         V+ VS+  10k TC=0,0 
R_R16         0 V+  10k TC=0,0 
R_R17         VOUT N13069  4.7k TC=0,0 
R_R18         V- VOUT  22k TC=0,0 
R_R19         N13013 V-  10k TC=0,0 
R_R20         0 N13032  820 TC=0,0 
C_C1         N10083 N09955  47p  TC=0,0 
C_C2         0 V+  2.2n  TC=0,0 
C_C3         N13069 V+  2.2n  TC=0,0 
C_C4         N13032 VOUT  10u  TC=0,0 
C_C5         0 N13013  10u  TC=0,0 
Q_Q13         0 N10375 VOUT BC807-25 
V_V1         VS+ 0 16Vdc
D_D6         V- VOUT BZX84C2V7/ZTX 
D_D7         VOUT V- BZX84C2V7/ZTX 
J_J1         N10001 N10001 VS+ J309 
D_D8         N10343 N10001 BZX84C6V2/ZTX 
